US08420816B2
STEP A: (R)-tert-butyl 1-(cyclopentylamino)-3-methyl-1-oxobutan-2-ylcarbamate
To a mixture of (R)-2-(tert-butoxycarbonylamino)-3-methylbutanoic acid (0.5 g, 2.301 mmol), HATU (1.05 g, 2.76 mmol) and cyclopentanamine (0.455 mL, 4.60 mmol) in DCM (20 mL) was added Et3N (0.642 mL, 4.60 mmol). The reaction mixture was stirred at room temperature for 5 h, washed with saturated aqueous NaHCO3 and brine, dried over MgSO4, and concentrated. Purification by silica column chromatography (MeOH/DCM, 0-10%) afforded the title compound (0.61 g, 94%).

reactant | (R)-2-(tert-butoxycarbonylamino)-3-methylbutanoic acid | 2.301 mmol, 0.5 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C(C)C | C10H19NO4
reactant | HATU | 2.76 mmol, 1.05 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclopentanamine | 4.60 mmol, 0.455 mL | C1(CCCC1)N | C5H11N
reactant | Et3N | 4.60 mmol, 0.642 mL | CCN(CC)CC | C6H15N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 1-(cyclopentylamino)-3-methyl-1-oxobutan-2-ylcarbamate | 0.61 g, 94% | C1(CCCC1)NC([C@@H](C(C)C)NC(OC(C)(C)C)=O)=O | C15H28N2O3
